US07498337B2
[5-bromo-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanol
A solution (80 mL) of methyl 5-bromo-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate (7.1 g) in tetrahydrofuran was cooled to −78° C., a 1.5 mol/L solution (42 mL) of diisobutylaluminum hydride in toluene was added dropwise over 30 min and the mixture was further stirred at −78° C. for 1 hr. 1 mol/L hydrochloric acid (20 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound as a brown oil (yield 7.1 g, about 100%).

reactant | methyl 5-bromo-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate | 80 mL, 7.1 g | BrC1=CC(=CN1S(=O)(=O)C1=CC=CC=C1)C(=O)OC | C12H10BrNO4S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1 mol/L, 20 mL | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [5-bromo-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanol | yield 7.1 g, about 100% | BrC1=CC(=CN1S(=O)(=O)C1=CC=CC=C1)CO | C11H10BrNO3S
